US08003692B2
3-(3-Hydroxy-phenyl)-cyclohex-2-enone.
Synthesized from 3-bromocyclohex-2-enone and 3-hydroxyphenylboronic acid according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography yielded the product (83 mg, 64%) as a pale yellow solid. 1H NMR (300 MHz, CD3OD): δ 7.22 (t, J=7.8 Hz 1H), 7.05 (ddd, J=7.8, 1.5, 0.9 Hz, 1H), 6.98 (t, J=1.5 Hz, 1H), 6.83 (ddd, J=8.1, 2.4, 1.2 Hz, 1H), 6.31 (t, J=1.2 Hz, 1H), 2.79 (td, J=6.0, 1.5 Hz, 2H), 2.46 (t, J=6.0 Hz, 2H), 2.12 (quintet, J=6.6 Hz, 2H). 13C (75 MHz, CD3OD): 202.5, 163.4, 158.8, 141.3, 130.7, 125.2, 118.4, 118.2, 113.8, 38.1, 29.2, 23.9. LCMS (ESI): mass calcd for (C12H12O2) m/z 188.08; measured [M+H]+: m/z 189.0.

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | 3-hydroxyphenylboronic acid | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 3-(3-Hydroxy-phenyl)-cyclohex-2-enone | 83 mg, 64% | OC=1C=C(C=CC1)C1=CC(CCC1)=O | C12H12O2
